US05470878
A mixture of sodium hydride (343 mg, 14 mmol) and 1-methylthymine (2.00 g, 14 mmol) in dimethylsulfoxide (30 ml) was stirred for 15 minutes, and then 6-bromo-1-hexene (2.30 g, 14 mmol) was added. After stirring for 69 hours, the reaction mixture was poured into water (100 ml) and extracted with dichloromethane (4×50 ml). The combined organic layers were washed with saturated aqueous sodium chloride solution (40 ml), dried over sodium sulfate, and then the solvent was evaporated under vacuum to give a residue which was recrystallized (dichloromethane-ethyl ether) to give 3-(5-hexenyl)-1-methylthymine (2.80 g, 88% yield).

reactant | sodium hydride | 14 mmol, 343 mg | [H-].[Na+]
reactant | 1-methylthymine | 14 mmol, 2.00 g | CN1C(=O)NC(=O)C(C)=C1 | C6H8N2O2
reactant | 6-bromo-1-hexene | 14 mmol, 2.30 g | BrCCCCC=C | C6H11Br
reactant | water | 100 ml | O | H2O
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 3-(5-hexenyl)-1-methylthymine | 2.80 g, 88% yield | C(CCCC=C)N1C(N(C=C(C1=O)C)C)=O | C12H18N2O2
